US06048852
b) 2-Phenoxyethylmalonic acid
Diethyl 2-phenoxyethylmalonate (1 g) was treated with sodium hydroxide (285 mg, 2 eq) in ethanol (10 ml) and water (5 ml). After 16 h the solution was diluted with water (10 ml), washed with diethyl ether (3×20 ml), acidified to pH 2 (5M hydrochloric acid) and extracted with ethyl acetate (2×20 ml). The combined extracts were washed with water (3×20 ml), saturated brine (20 ml), dried (MgSO4) and evaporated to yield the title compound (510 mg, 64%). νmax (KBr) 2915 (br), 1730 and 1243 cm-1. δH [(CD3)2CO] 2.36 (2H, m, CH2CH), 3.69 (1H, t, J 7.2 Hz, CH), 4.12 (2H, t, J 7.3 Hz, OCH2), 6.94, 7.28 (5H, m, Ph). EIMS M+ 224, DCIMS MNH4+ 242.

reactant | Diethyl 2-phenoxyethylmalonate | 1 g | O(C1=CC=CC=C1)CCC(C(=O)OCC)C(=O)OCC | C15H20O5
reactant | sodium hydroxide | 285 mg, 2 eq | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 2-Phenoxyethylmalonic acid | 510 mg, 64% | O(C1=CC=CC=C1)CCC(C(=O)O)C(=O)O | C11H12O5
